US08471005B2
N-(2-{2-[4-(1,4-Dimethyl-3-oxo-piperazin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide was prepared from trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester and 3-(4-amino-phenyl)-1,4-dimethyl-piperazin-2-one in an analogous manner to Example 1061. Product isolated as an orange foam (80 mg, 53%). LCMS (m/e) 520 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.71 (s, 1H), 7.95-7.88 (m, 1H), 7.58-7.46 (m, 3H), 7.45 (d, 2H, J=8.4 Hz), 7.20 (d, 2H, J=8.4 Hz), 7.03 (d, 1H, J=4.7 Hz), 6.87 (d, 1H, J=4.7 Hz), 6.82 (bs, 1H), 3.77-3.67 (m, 1H), 3.64 (s, 1H), 3.24-3.17 (m, 1H), 3.11 (s, 3H), 3.05-2.96 (m, 1H), 2.98 (s, 3H), 2.70 (s, 3H), 2.69-2.61 (m, 1H), 2.16 (s, 3H).

reactant | trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F)C | C15H13F3N4O5S2
reactant | 3-(4-amino-phenyl)-1,4-dimethyl-piperazin-2-one | NC1=CC=C(C=C1)C1C(N(CCN1C)C)=O | C12H17N3O
product | N-(2-{2-[4-(1,4-Dimethyl-3-oxo-piperazin-2-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide | CN1C(C(N(CC1)C)=O)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C26H29N7O3S
